US07582625B2
A4c) 1-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazine
A suspension of 0.57 g (1.85 mmol) 1-benzyl-4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazine and 300 mg 10% Pd/C in 30 mL MeOH was hydrogenated at 50° C. and 50 psi hydrogen pressure for 10 h. The catalyst was removed by suction filtering and the filtrate was concentrated by evaporation i. vac. The product was reacted further without purification.

reactant | 1-benzyl-4-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazine | 1.85 mmol, 0.57 g | C(C1=CC=CC=C1)N1CCN(CC1)C1CCS(CC1)(=O)=O | C16H24N2O2S
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 30 mL | CO | CH4O
catalyst | Pd/C | 300 mg | [Pd] | Pd
product | 1-(1,1-dioxo-hexahydro-1λ6-thiopyran-4-yl)-piperazine | O=S1(CCC(CC1)N1CCNCC1)=O | C9H18N2O2S
